US06673818B2
To a solution of [3,5-difluoro-4-(methylthio)-phenyl]-methanol (24.0 g, 0.126 mol) in dichloromethane (300 mL) cooled in an ice bath was added methanesulfonylchloride (16.9 g, 0.147 mol) in portions followed by diisopropyl-ethylamine in portions. The mixture was allowed to warm to room temperature, and stirred for 18 hours. 4-dimethyl-aminopyridine was added and the mixture was heated to reflux for 2 hours, cooled, and stirred at room temperature for 18 hours. The mixture was poured into dilute HCl and extracted with dichloromethane once (75 mL) after separating. The combined extracts were washed with dilute sodium chloride, dried using magnesium sulfate, and concentrated. Purification by silica gel chromatography using 5% ethyl acetate in hexanes gave 5-(chloromethyl)-1,3-difluoro-2-(methylthio)benzene as a clear colorless liquid (24.9 g, 95%). 1H NMR (CDCl3/400 MHz) 6.92-6.96 (m, 2H), 4.49 (s, 2H), 2.44 (s, 3H). HRMS m/z 207.9893 (M+, calcd 207.9925).

reactant | [3,5-difluoro-4-(methylthio)-phenyl]-methanol | 0.126 mol, 24.0 g | FC=1C=C(C=C(C1SC)F)CO | C8H8F2OS
reactant | methanesulfonylchloride | 0.147 mol, 16.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropyl-ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-1,3-difluoro-2-(methylthio)benzene | 24.9 g, 95% | ClCC=1C=C(C(=C(C1)F)SC)F | C8H7ClF2S
